US06060488
6-Hydroxy-2-(4-Hydroxyphenyl)-3-(4-[(1-Hexylpiperidin-2-yl)methoxy]benzoyl)benzo[b]thiophene
6-Methoxy-2-(4-methoxyphenyl)-3-(4-[(1-hexylpiperidin-2-yl)methoxy]benzoyl)benzo[b]thiophene (464 mg, 0.812 mmol), ethane thiol (4.06 mmol), and aluminum chloride (649 mg, 4.87 mmol) were converted to 194 mg (44%) of the title compound by the procedure of Example 16. MS(FD) 544(M+). IR (CHCl3) ν max 3380, 2930, 2858, 1598, 1467, 1256, 1166.

reactant | 6-Methoxy-2-(4-methoxyphenyl)-3-(4-[(1-hexylpiperidin-2-yl)methoxy]benzoyl)benzo[b]thiophene | 0.812 mmol, 464 mg | COC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCC2N(CCCC2)CCCCCC)=O)C2=CC=C(C=C2)OC)C1 | C35H41NO4S
reactant | ethane thiol | 4.06 mmol | C(C)S | C2H6S
reactant | aluminum chloride | 4.87 mmol, 649 mg | [Cl-].[Al+3].[Cl-].[Cl-]
product | 6-Hydroxy-2-(4-Hydroxyphenyl)-3-(4-[(1-Hexylpiperidin-2-yl)methoxy]benzoyl)benzo[b]thiophene | 194 mg, 44% | OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCC2N(CCCC2)CCCCCC)=O)C2=CC=C(C=C2)O)C1 | C33H37NO4S
